US08222429B2
(1) 2-Iodo-3-methyl-1H-benzo[f]thiochromen-1-one
3-Methyl-1H-benzo[f]thiochromen-1-one (1.0 mmol, 176 mg), iodine (1.2 mmol, 305 mg) and ceric ammonium nitrate (1.1 mmol, 603 mg) were dissolved in acetonitrile (4.0 mL), and the solution was stirred under a nitrogen atmosphere at 60° C. for 4 hours. After the disappearance of the starting materials was confirmed by thin-layer chromatography, the reaction solution was poured into a solution of a 10% saturated aqueous sodium thiosulfate solution under ice-cooling to terminate the reaction. The organic substances were extracted with methylene chloride, the obtained organic layer was dried over magnesium sulfate, and the solvents were evaporated under reduced pressure. The residue was purified by silica gel column chromatography, and the title compound (0.74 mmol, 260 mg) was obtained in a 74% yield.

reactant | 3-Methyl-1H-benzo[f]thiochromen-1-one | 1.0 mmol, 176 mg | CC=1SC=2C=CC3=C(C2C(C1)=O)C=CC=C3 | C14H10OS
reactant | iodine | 1.2 mmol, 305 mg | II | I2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 4.0 mL | C(C)#N | C2H3N
product | 2-Iodo-3-methyl-1H-benzo[f]thiochromen-1-one | 0.74 mmol, 260 mg, 74% yield | IC1=C(SC=2C=CC3=C(C2C1=O)C=CC=C3)C | C14H9IOS
